US06187945B1
m-Cyanobenzylamine (13.2 g), water (18 g), and 1,2-dichloroethane (22 g) were mixed, and the mixture was stirred with cooling with ice. Acetic acid (18 g) was added to the mixture. Subsequently, a 20 wt % aqueous solution (51.8 g) of sodium nitrite was added dropwise to the mixture over a one hour period. The mixture was stirred at the same temperature for four hours. The reaction mixture was subjected to extraction with 1,2-dichloroethane, and the organic solvent was concentrated. Water was added to the concentrated solution, and the residual organic solvent was removed through distillation, to thereby obtain 13.7 g of m-cyanobenzyl acetate (yield 78%). The purity of the product was 97%.

reactant | m-Cyanobenzylamine | 13.2 g | C(#N)C=1C=C(CN)C=CC1 | C8H8N2
reactant | water | 18 g | O | H2O
reactant | 1,2-dichloroethane | 22 g | ClCCCl | C2H4Cl2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | Acetic acid | 18 g | C(C)(=O)O | C2H4O2
product | m-cyanobenzyl acetate | 13.7 g, yield 78% | C(C)(=O)OCC1=CC(=CC=C1)C#N | C10H9NO2
